US06200980B1
6-[2-Ethoxy-5-(morpholinoacetyl)phenyl]-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]-pyrimidin-4-one
Morpholine (0.175 g, 0.002 mol) was added to a stirred suspension of 6-(5-bromoacetyl-2-ethoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one (Preparation 4; 0.70 g, 0.0017 mol) and anhydrous potassium carbonate (0.461 g, 0.0033 mol) in acetonitrile (30 ml) and the resulting mixture stirred at room temperature for 3 hours. The solvent was removed by evaporation under vacuum, the residue partitioned between water (20 ml) and dichloromethane (30 ml), the organic phase removed and the aqueous phase extracted with dichloromethane (3×30 ml). The combined organic solutions were dried (Na2SO4) and the solvent removed by evaporation under vacuum to give a yellow oil. Purification by column chromatography (SiO2, 5% MeOH in CH2Cl2), followed by crystallisation from ethyl acetate-hexane, provided the title compound as white crystals (0.62 g, 85%), m.p. 160-162° C. Found: C,61.96; H,6.29; N,16.32. C22H27N5O4 requires C,62.10; H,6.40; N,16.46%.

reactant | Morpholine | 0.002 mol, 0.175 g | N1CCOCC1 | C4H9NO
reactant | 6-(5-bromoacetyl-2-ethoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 0.0017 mol, 0.70 g | BrCC(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)N(N=C2)CCC)=O)OCC | C18H19BrN4O3
reactant | potassium carbonate | 0.0033 mol, 0.461 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-[2-Ethoxy-5-(morpholinoacetyl)phenyl]-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]-pyrimidin-4-one | 0.62 g, 85% | C(C)OC1=C(C=C(C=C1)C(CN1CCOCC1)=O)C=1NC(C2=C(N1)N(N=C2)CCC)=O | C22H27N5O4
